US05200420
Methyl 2-methyl-5-oxo-4-(2-phenyl-benzothiazol-7-yl)-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate
10 mmol of 2-phenyl-benzothiazole-7-carboxaldehyde, 10 mmol of 4-acetoxyacetoacetic ester and 10 mmol of methyl 3-aminocrotonate are boiled in 20 ml of methanol overnight, then 6 ml of dilute hydrochloric acid are added and the mixture is boiled for 30 minutes. It is concentrated and purified on a silica gel column (cyclohexane/ethyl acetate=1:1).

reactant | 2-phenyl-benzothiazole-7-carboxaldehyde | 10 mmol | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2C=O | C14H9NOS
reactant | methyl 3-aminocrotonate | 10 mmol | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
product | Methyl 2-methyl-5-oxo-4-(2-phenyl-benzothiazol-7-yl)-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)COC2=O)C2=CC=CC=1N=C(SC12)C1=CC=CC=C1)C(=O)OC | C23H18N2O4S
